US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(4-amino-3,5-dibromophenylsulfinyl)-propyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetra-hydro-2H-3-benzazepin-2-on-3-yl)-propyl-N-[3-(4-amino-3,5-dibromophenylthio)-propyl]-methylamine and hydrogen peroxide in glacial acetic acid analogously to Example 4.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetra-hydro-2H-3-benzazepin-2-on-3-yl)-propyl-N-[3-(4-amino-3,5-dibromophenylthio)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCSC2=CC(=C(C(=C2)Br)N)Br)C)=O)C=C1OC | C25H33Br2N3O3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(4-amino-3,5-dibromophenylsulfinyl)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCS(=O)C2=CC(=C(C(=C2)Br)N)Br)C)=O)C=C1OC | C25H33Br2N3O4S
